US05591891
N-[2-Acetylthiomethyl-3-(4-fluorophenyl)-1-oxobutyl]alanine Benzyl Ester
Working as in Example 60, but starting with 2-acetylthiomethyl-3-(4-fluorophenyl)butanoic acid and benzyl esters of alanine, the title compound is obtained in a yield of 73% as an oil having the characteristics:

reactant | 2-acetylthiomethyl-3-(4-fluorophenyl)butanoic acid | C(C)(=O)SCC(C(=O)O)C(C)C1=CC=C(C=C1)F | C13H15FO3S
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | N-[2-Acetylthiomethyl-3-(4-fluorophenyl)-1-oxobutyl]alanine Benzyl Ester | yield of 73% | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(C)C1=CC=C(C=C1)F)CSC(C)=O)=O)C)=O | C23H26FNO4S
